US07494962B2
The same experiment as in Example 4 was carried out, except for using a mixed solvent of CPME and THF (1:1 by volume) instead of 50 ml of CPME. The resulting reaction mixture was analyzed by gas chromatography to confirm that 2-mesityl-2-propanol and α-methyl-2,4,6-trimethylstyrene were obtained in a yield of 66.8% and 14.7%, respectively.

reactant | CPME | COC1CCCC1 | C6H12O
reactant | 2-mesityl-2-propanol | C1(=C(C(=CC(=C1)C)C)C(C)(C)O)C | C12H18O
solvent | THF | C1CCOC1 | C4H8O
product | α-methyl-2,4,6-trimethylstyrene | yield of 66.8% | CC(=C)C1=C(C=C(C=C1C)C)C | C12H16
